US07691867B2
A mixture of 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide hydrochloride (0.25 g, 0.49 mmol), potassium phthalimide (0.109 g, 0.59 mmol), potassium carbonate (0.081 g, 0.59 mmol) and potassium iodide (0.098 g, 0.59 mmol) in dimethylacetamide (2 ml) was heated at 75° C. for 16 hours. The reaction mixture was allowed to cool to room temperature. Aqueous sodium hydrogen carbonate was added to the mixture and the resultant precipitate was filtered and washed with water, acetonitrile then diethyl ether to give N-(2,3-difluorophenyl)-2-[4-({7-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propoxy]quinazolin-4-yl}amino)-1H-pyrazol-1-yl]acetamide (0.214 g, 75% yield):

reactant | 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide hydrochloride | 0.49 mmol, 0.25 g | Cl.ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=C(C(=CC=C1)F)F
reactant | potassium phthalimide | 0.59 mmol, 0.109 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium carbonate | 0.59 mmol, 0.081 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.59 mmol, 0.098 g | [I-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2,3-difluorophenyl)-2-[4-({7-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propoxy]quinazolin-4-yl}amino)-1H-pyrazol-1-yl]acetamide | 0.214 g, 75% yield | FC1=C(C=CC=C1F)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)OCCCN1C(C2=CC=CC=C2C1=O)=O)=O | C30H23F2N7O4
